US07060827B2
In like manner to the preparation of N4-(ethylenedioxyphenyl)-5-fluoro-N2-[3-(N-methylamino)carbonylmethyleneoxyphenyl]-2,4-pyrimidinediamine, the reaction of 5-fluoro-N4-(3-hydroxyphenyl)-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine with methylamine hydrochloride gave 5-fluoro-N4-(3-hydroxyphenyl)-N2-[2-(N-methylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.71 (d, 1H, J=4.8 Hz), 8.00–7.92 (m, 2H), 7.56–7.52 (m, 1H), 7.44–7.39 (m, 2H), 7.12 (m, 2H), 6.69 (bdd, 1H), 2.96 and 2.94 (2s, 3H).

reactant | 5-fluoro-N4-(3-hydroxyphenyl)-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1)NC1=CC(=CC=C1)O | C20H15FN4O4
reactant | methylamine hydrochloride | Cl.CN
product | 5-fluoro-N4-(3-hydroxyphenyl)-N2-[2-(N-methylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=CC2=C(C=C(O2)C(=O)NC)C1)NC1=CC(=CC=C1)O | C20H16FN5O3
